### PR TITLE
[Merged by Bors] - feat(GroupTheory/Focal): add focal subgroup theorem

### PR DESCRIPTION
**Pull request by Rogerhu12**
Define `focalSubgroup` (denoted `H*`) and prove the Focal Subgroup Theorem.

The main result is `inf_commutator_eq_focalSubgroup`, which states that for a Sylow p-subgroup `P` of a finite group `G`, `P ∩ G' = P*`.

This implementation includes:
- The definition of the focal subgroup.
- The transfer homomorphism `G → P/P*`.
- The proof using the transfer map.

Also add [gorenstein1968] to `docs/references.bib`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/GroupTheory/Focal.lean [hunk 1]
```diff
@@ -0,0 +1,282 @@
...
+variable {G : Type*} [Group G] (H : Subgroup G)
+
+namespace Subgroup
+
+/--
+The **Focal Subgroup** of a subgroup `H` (denoted `H*` or `foc(H)`).
+It is generated by elements of the form `x⁻¹ * (u * x * u⁻¹)` where both `x` and `x^u` are in `H`.
+-/
+def focalSubgroup : Subgroup G :=
+  closure { g | ∃ x ∈ H, ∃ u : G, u * x * u⁻¹ ∈ H ∧ g = x⁻¹ * (u * x * u⁻¹) }
```
Comment (tb65536) [inline Mathlib/GroupTheory/Focal.lean]: If you replace x by x⁻¹, then you could use the existing commutator notation here, right?

File: Mathlib/GroupTheory/Focal.lean [hunk 2]
```diff
@@ -0,0 +1,282 @@
...
+
+/--
+The focal subgroup considered as a subgroup of `H`.
+Note that `focalSubgroup H` is always contained in `H`.
+-/
+def focalSubgroupOf {G : Type*} [Group G] (H : Subgroup G) : Subgroup H :=
```
Comment (tb65536) [inline Mathlib/GroupTheory/Focal.lean]: Can you re-use variables here?

File: Mathlib/GroupTheory/Focal.lean [hunk 3]
```diff
@@ -0,0 +1,282 @@
...
+
+variable {G : Type*} [Group G] (H : Subgroup G)
+
+namespace Subgroup
+
+/--
+The **Focal Subgroup** of a subgroup `H` (denoted `H*` or `foc(H)`).
+It is generated by elements of the form `x⁻¹ * (u * x * u⁻¹)` where both `x` and `x^u` are in `H`.
+-/
+def focalSubgroup : Subgroup G :=
```
Comment (tb65536) [inline Mathlib/GroupTheory/Focal.lean:54]: Can you to_additivize things?

File: Mathlib/GroupTheory/Focal.lean [hunk 4]
```diff
@@ -0,0 +1,282 @@
...
+/-- Lemma: The focal subgroup is contained in the commutator subgroup G'. -/
+lemma focalSubgroup_le_commutator : focalSubgroup H ≤ commutator G := by
+  rw [focalSubgroup,closure_le]
+  intro g hg
+  obtain ⟨x, hxP, u, huP, hg_eq⟩ := hg
+  have h : x⁻¹ * (u * x * u⁻¹) = ⁅x⁻¹, u⁆ := by group
+  rw [hg_eq, h, commutator_eq_closure]
+  exact mem_closure.mpr fun K a ↦ a (commutator_mem_commutatorSet x⁻¹ u)
+
+lemma quotient_focalSubgroup_comm : ∀ (x y : H ⧸ (focalSubgroupOf H)), x * y = y * x := by
```
Comment (tb65536) [inline Mathlib/GroupTheory/Focal.lean]: This is basically just saying that the focal subgroup of H contains the commutator subgroup of H, right? Can this be extracted as a lemma?

**Comment by Rogerhu12** [comment]
I refactored the development to better match mathlib style.
In particular, I extracted commutator_le_focalSubgroupOf and rewrote commutativity of H ⧸ H* via Normal.quotient_commutative_iff_commutator_le.
I introduced focalSubgroupOf_mk'_conj_eq to handle conjugation in the quotient and reused it in the transfer computation.
The commutator-to-kernel step is now inf_le_inf_left _ (Abelianization.commutator_subset_ker ...).
I kept the fusion-style generators in the definition and added focal_gen_eq_commutator as a bridge.
Added @[to_additive] to the core definitions/basic lemmas only._

File: Mathlib/GroupTheory/Focal.lean (hunk 1 above)
Comment (Rogerhu12) [reply Mathlib/GroupTheory/Focal.lean]: I kept the fusion-style generator in the definition (to highlight the x, x^u ∈ H condition), and added focal_gen_eq_commutator as a bridge where commutator notation is convenient.

File: Mathlib/GroupTheory/Focal.lean (hunk 2 above)
Comment (Rogerhu12) [reply Mathlib/GroupTheory/Focal.lean]: Updated

File: Mathlib/GroupTheory/Focal.lean (hunk 3 above)
Comment (Rogerhu12) [reply Mathlib/GroupTheory/Focal.lean:54]: Added @[to_additive] to the core definitions/basic lemmas. I did not additivize lemmas involving _root_.commutator/transfer/Sylow since there is no direct additive counterpart.

File: Mathlib/GroupTheory/Focal.lean (hunk 4 above)
Comment (Rogerhu12) [reply Mathlib/GroupTheory/Focal.lean]: Extracted commutator_le_focalSubgroupOf and rewrote commutativity of H ⧸ H* via Normal.quotient_commutative_iff_commutator_le.

File: Mathlib/GroupTheory/Focal.lean (hunk 1 above)
Comment (tb65536) [reply Mathlib/GroupTheory/Focal.lean]: I'm suggesting the following, which retains the `x^u ∈ H` and avoids the inverse in the commutator.
```suggestion
  closure { g | ∃ x ∈ H, ∃ u : G, u * x * u⁻¹ ∈ H ∧ g = ⁅x, u⁆ }
```

Comment (Rogerhu12) [reply Mathlib/GroupTheory/Focal.lean]: Applied the suggested change: the generator in focalSubgroup is now written using commutator notation (⁅x, u⁆), . I dropped to_additive accordingly.

File: Mathlib/GroupTheory/Focal.lean [hunk 5]
```diff
@@ -0,0 +1,268 @@
...
+end Subgroup
+
+/-- Lemma: The focal subgroup is indeed a subgroup of H. -/
+lemma focalSubgroup_le_h : focalSubgroup H ≤ H := by
+  rw [focalSubgroup, closure_le]
+  rintro _ ⟨x, hxP, w, huxuP, rfl⟩
+  have : w * x⁻¹ * w⁻¹ ∈ H := by
+    convert H.inv_mem huxuP using 1; group
+  have : x * (w * x⁻¹ * w⁻¹) ∈ H := H.mul_mem hxP this
+  convert this using 1; group
```
Comment (tb65536) [inline Mathlib/GroupTheory/Focal.lean]: Usually convert either suggests that you aren't taking advantage of the existing API properly or that there is missing API.

File: Mathlib/GroupTheory/Focal.lean [hunk 6]
```diff
@@ -0,0 +1,268 @@
...
+variable {G : Type*} [Group G] (H : Subgroup G)
+
+namespace Subgroup
+
+/--
+The **Focal Subgroup** of a subgroup `H` (denoted `H*` or `foc(H)`).
+It is generated by elements of the form `x⁻¹ * (u * x * u⁻¹)` where both `x` and `x^u` are in `H`.
+-/
+def focalSubgroup : Subgroup G :=
+  closure { g | ∃ x ∈ H, ∃ u : G, u * x * u⁻¹ ∈ H ∧ g = ⁅x, u⁆ }
```
Comment (tb65536) [inline Mathlib/GroupTheory/Focal.lean]: This is equivalent to `closure { g | g ∈ H ∧ ∃ x ∈ H, ∃ u : G, g = ⁅x, u⁆ }`, right? Would that be easier to work with?

File: Mathlib/GroupTheory/Focal.lean [hunk 7]
```diff
@@ -0,0 +1,245 @@
...
+Note that `focalSubgroup H` is always contained in `H`.
+-/
+def focalSubgroupOf : Subgroup H :=
+  (focalSubgroup H).subgroupOf H
+
+end Subgroup
+
+/-- Lemma: The focal subgroup is indeed a subgroup of H. -/
+lemma focalSubgroup_le_h : focalSubgroup H ≤ H := by
+  rw [focalSubgroup, closure_le]
```
Comment (tb65536) [inline Mathlib/GroupTheory/Focal.lean]: Can you add `focalSubgroup_def` to avoid having to unfold the definition directly (and likewise for `focalSubgroupOf`)?

File: Mathlib/GroupTheory/Focal.lean [hunk 8]
```diff
@@ -0,0 +1,245 @@
...
+  rintro g ⟨h, -, -, -, -⟩;
```
Comment (tb65536) [inline Mathlib/GroupTheory/Focal.lean]:
```suggestion
  rintro g ⟨h, -, -, -, -⟩
```

File: Mathlib/GroupTheory/Focal.lean [hunk 9]
```diff
@@ -0,0 +1,245 @@
...
+  | one => simp
+  | mul _ _ _ _ IHa IHb => simpa using mul_mem IHa IHb
+  | inv _ _ IH => simpa [mul_assoc] using inv_mem IH
+
+/-- Lemma: The focal subgroup is contained in the commutator subgroup G'. -/
+lemma focalSubgroup_le_commutator : focalSubgroup H ≤ commutator G := by
+  rw [focalSubgroup,closure_le]
+  rintro g ⟨_, x, _, u, hg_eq⟩
+  rw [hg_eq, commutator_eq_closure]
+  exact mem_closure.mpr fun K a ↦ a (commutator_mem_commutatorSet x u)
```
Comment (tb65536) [inline Mathlib/GroupTheory/Focal.lean]:
```suggestion
  rintro g ⟨_, x, _, u, rfl⟩
  exact commutator_mem_commutator (mem_top x) (mem_top u)
```

File: Mathlib/GroupTheory/Focal.lean [hunk 10]
```diff
@@ -0,0 +1,245 @@
...
+  closure { g | g ∈ H ∧ ∃ x ∈ H, ∃ u : G, g = ⁅x, u⁆ }
+
+/--
+The focal subgroup considered as a subgroup of `H`.
+Note that `focalSubgroup H` is always contained in `H`.
+-/
+def focalSubgroupOf : Subgroup H :=
+  (focalSubgroup H).subgroupOf H
+
+end Subgroup
```
Comment (tb65536) [inline Mathlib/GroupTheory/Focal.lean]: This entire file should be in the subgroup namespace, I think.

File: Mathlib/GroupTheory/Focal.lean [hunk 11]
```diff
@@ -0,0 +1,245 @@
...
+
+/-- Lemma: The focal subgroup is indeed a subgroup of H. -/
+lemma focalSubgroup_le_h : focalSubgroup H ≤ H := by
```
Comment (tb65536) [inline Mathlib/GroupTheory/Focal.lean]:
```suggestion
lemma focalSubgroup_le : focalSubgroup H ≤ H := by
```

File: Mathlib/GroupTheory/Focal.lean [hunk 12]
```diff
@@ -0,0 +1,245 @@
...
+  exact ⟨H.mul_mem (H.inv_mem hconj) hh, _, H.inv_mem hconj, g, by group⟩
+
+lemma commutator_le_focalSubgroupOf : commutator H ≤ focalSubgroupOf H := by
+  have h_comm_in_focal : ∀ (a b : H),
+      ⁅(a : G), (b : G)⁆ ∈ focalSubgroup H := fun a b =>
+    subset_closure ⟨H.mul_mem (H.mul_mem (H.mul_mem a.2 b.2) (H.inv_mem a.2)) (H.inv_mem b.2),
+      a, a.2, b, rfl⟩
+  rw [commutator_eq_closure, closure_le]
+  rintro _ ⟨a, b, rfl⟩
+  simpa using h_comm_in_focal a b
```
Comment (tb65536) [inline Mathlib/GroupTheory/Focal.lean]: If you add this lemma (whose proof is currently a bit hacky):
```
theorem focalSubgroupOf_eq_closure :
    focalSubgroupOf H = closure { g : H | ∃ x ∈ H, ∃ u : G, g = ⁅x, u⁆ } := by
  rw [← (map_injective H.subtype_injective).eq_iff, focalSubgroupOf,
    map_subgroupOf_eq_of_le (focalSubgroup_le_h H), MonoidHom.map_closure, focalSubgroup]
  congr
  simp
  grind
```
then you can golf this to
```suggestion
  rw [focalSubgroupOf_eq_closure]
  apply closure_mono
  rintro - ⟨a, -, b, -, -, rfl⟩
  exact ⟨a, a.2, b, rfl⟩
```

File: Mathlib/GroupTheory/Focal.lean [hunk 13]
```diff
@@ -0,0 +1,245 @@
...
+
+variable {G : Type*} [Group G] (H : Subgroup G)
+
+/--
+The sum of minimal periods over all orbits equals the index `[G:H]`.
+This follows from the orbit-counting formula.
+-/
+lemma sum_minimalPeriod_eq_index (x : H) [Finite (G ⧸ H)]
+    [Fintype (Quotient (MulAction.orbitRel (zpowers (x : G)) (G ⧸ H)))] :
+    ∑ q : Quotient (MulAction.orbitRel (zpowers (x : G)) (G ⧸ H)),
```
Comment (tb65536) [inline Mathlib/GroupTheory/Focal.lean]: This should probably go to an earlier file?

File: Mathlib/GroupTheory/Focal.lean [hunk 14]
```diff
@@ -0,0 +1,245 @@
...
+        MonoidHom.transfer_eq_prod_quotient_orbitRel_zpowers_quot φ x
+    _ = ∏ q : Quotient (MulAction.orbitRel (zpowers (x : G)) (G ⧸ H)),
+          φ ⟨(x : G) ^ minimalPeriod ((x : G) • ·) q.out, H.pow_mem x.2 _⟩ :=
+        Finset.prod_congr rfl fun q _ =>
+          focalSubgroupOf_mk'_conj_eq H (H.pow_mem x.2 _) q.out.out _
+    _ = φ x ^ ∑ q : Quotient (MulAction.orbitRel (zpowers (x : G)) (G ⧸ H)),
+          minimalPeriod ((x : G) • ·) q.out := by
+        rw [← Finset.prod_pow_eq_pow_sum]
+        exact Finset.prod_congr rfl fun _ _ => rfl
+    _ = φ x ^ H.index := by rw [sum_minimalPeriod_eq_index H x]
```
Comment (tb65536) [inline Mathlib/GroupTheory/Focal.lean]:
```suggestion
  haveI : Fintype (Quotient (MulAction.orbitRel (zpowers (x : G)) (G ⧸ H))) :=
    Fintype.ofFinite _
  rw [← sum_minimalPeriod_eq_index H x, ← Finset.prod_pow_eq_pow_sum,
    MonoidHom.transfer_eq_prod_quotient_orbitRel_zpowers_quot]
  apply Finset.prod_congr rfl
  intros
  apply focalSubgroupOf_mk'_conj_eq H
```

File: Mathlib/GroupTheory/Focal.lean [hunk 15]
```diff
@@ -0,0 +1,245 @@
...
+      Fintype (MulAction.orbit (zpowers (x : G)) q.out) := fun q => Fintype.ofFinite _
+  simp only [MulAction.minimalPeriod_eq_card, index_eq_card, Nat.card_eq_fintype_card]
+  rw [← Fintype.card_sigma]
+  exact Fintype.card_congr (MulAction.selfEquivSigmaOrbits (zpowers (x : G)) (G ⧸ H)).symm
+
+/--
+Key Lemma: The restriction of the Transfer map to `H` acts like the power map `x ↦ x^n` mod `H*`,
+where `n = [G:H]`.
+-/
+theorem transfer_restricted_to_p_eq_pow [Finite G] (x : H) :
```
Comment (tb65536) [inline Mathlib/GroupTheory/Focal.lean]: Maybe `transfer_focal_eq_pow`?

File: Mathlib/GroupTheory/Focal.lean (hunk 14 above)
Comment (Rogerhu12) [reply Mathlib/GroupTheory/Focal.lean]: Updated

File: Mathlib/GroupTheory/Focal.lean (hunk 13 above)
Comment (Rogerhu12) [reply Mathlib/GroupTheory/Focal.lean]: I moved it to Data.ZMod.QuotientGroup

File: Mathlib/GroupTheory/Focal.lean (hunk 12 above)
Comment (Rogerhu12) [reply Mathlib/GroupTheory/Focal.lean]: Updated

File: Mathlib/GroupTheory/Focal.lean (hunk 7 above)
Comment (Rogerhu12) [reply Mathlib/GroupTheory/Focal.lean]: OK, updated

File: Mathlib/GroupTheory/Focal.lean (hunk 10 above)
Comment (Rogerhu12) [reply Mathlib/GroupTheory/Focal.lean]: Updated, but it causes some _root_.commutator, I think

File: Mathlib/Data/ZMod/QuotientGroup.lean [hunk 16]
```diff
@@ -196,4 +196,16 @@ lemma quotientEquivSigmaZMod_apply (q : orbitRel.Quotient (zpowers g) (G ⧸ H))
...
+lemma index_eq_sum_minimalPeriod (x : H) [Finite (G ⧸ H)]
+    [Fintype (Quotient (MulAction.orbitRel (zpowers (x : G)) (G ⧸ H)))] :
+    H.index = ∑ q : Quotient (MulAction.orbitRel (zpowers (x : G)) (G ⧸ H)),
+      minimalPeriod ((x : G) • ·) q.out := by
+  haveI : Fintype (G ⧸ H) := Fintype.ofFinite _
+  haveI : ∀ q : Quotient (MulAction.orbitRel (zpowers (x : G)) (G ⧸ H)),
+      Fintype (MulAction.orbit (zpowers (x : G)) q.out) := fun q => Fintype.ofFinite _
+  simp only [MulAction.minimalPeriod_eq_card, index_eq_card, Nat.card_eq_fintype_card]
+  rw [← Fintype.card_sigma]
+  exact Fintype.card_congr (MulAction.selfEquivSigmaOrbits (zpowers (x : G)) (G ⧸ H))
```
Comment (tb65536) [inline Mathlib/Data/ZMod/QuotientGroup.lean]: Does this help golf anything in `Transfer.lean`? (Or is there anything common that can be extracted, since it seems like this same argument gets used a few times there). If so, you could consider moving this to `Transfer.lean` for better discoverability.

File: Mathlib/GroupTheory/Focal.lean [hunk 17]
```diff
@@ -0,0 +1,227 @@
...
+def focalSubgroupOf : Subgroup H :=
+  (focalSubgroup H).subgroupOf H
+
+theorem focalSubgroup_def :
+    focalSubgroup H = closure { g | g ∈ H ∧ ∃ x ∈ H, ∃ u : G, g = ⁅x, u⁆ } := rfl
+
+theorem focalSubgroupOf_def :
+    focalSubgroupOf H = (focalSubgroup H).subgroupOf H := rfl
+
+
```
Comment (tb65536) [inline Mathlib/GroupTheory/Focal.lean]:
```suggestion

```

File: Mathlib/GroupTheory/Focal.lean [hunk 18]
```diff
@@ -0,0 +1,227 @@
...
+lemma commutator_le_focalSubgroupOf : _root_.commutator H ≤ focalSubgroupOf H := by
+  rw [focalSubgroupOf_eq_closure]
+  apply closure_mono
+  rintro - ⟨a, -, b, -, -, rfl⟩
+  exact ⟨a, a.2, b, rfl⟩
+
+instance focalSubgroup_quotient_commGroup : CommGroup (H ⧸ focalSubgroupOf H) :=
+  @CommGroup.ofIsMulCommutative _ _
+    ⟨⟨(Normal.quotient_commutative_iff_commutator_le.mpr
+      (commutator_le_focalSubgroupOf (H := H))).comm⟩⟩
```
Comment (tb65536) [inline Mathlib/GroupTheory/Focal.lean]:
```suggestion
instance : IsMulCommutative (H ⧸ focalSubgroupOf H) :=
  ⟨⟨(Normal.quotient_commutative_iff_commutator_le.mpr H.commutator_le_focalSubgroupOf).comm⟩⟩
```

File: Mathlib/GroupTheory/Focal.lean [hunk 19]
```diff
@@ -0,0 +1,227 @@
...
+
+/--
+The Transfer homomorphism `V : G → H/H*`.
+Defined using the abelian quotient H/H*.
+-/
+def transferFocal [H.FiniteIndex] :
+    G →* H ⧸ focalSubgroupOf H :=
+  MonoidHom.transfer (QuotientGroup.mk' (focalSubgroupOf H))
```
Comment (tb65536) [inline Mathlib/GroupTheory/Focal.lean]:
```suggestion
def transferFocal [H.FiniteIndex] : G →* H ⧸ focalSubgroupOf H :=
  (QuotientGroup.mk' H.focalSubgroupOf).transfer
```

File: Mathlib/GroupTheory/Focal.lean [hunk 20]
```diff
@@ -0,0 +1,227 @@
...
+    (QuotientGroup.mk' (focalSubgroupOf H)) ⟨h, hh⟩ := by
+  apply QuotientGroup.eq.mpr
+  change _ ∈ (focalSubgroup H).subgroupOf H; rw [mem_subgroupOf]; apply subset_closure
+  simp only [Subgroup.coe_mul, Subgroup.coe_inv]
+  exact ⟨H.mul_mem (H.inv_mem hconj) hh, _, H.inv_mem hconj, g, by group⟩
+
+theorem focalSubgroupOf_eq_closure :
+    focalSubgroupOf H = closure { g : H | ∃ x ∈ H, ∃ u : G, g = ⁅x, u⁆ } := by
+  rw [← (map_injective H.subtype_injective).eq_iff, focalSubgroupOf_def,
+    map_subgroupOf_eq_of_le (focalSubgroup_le H), MonoidHom.map_closure, focalSubgroup_def]
```
Comment (tb65536) [inline Mathlib/GroupTheory/Focal.lean]:
```suggestion
    map_subgroupOf_eq_of_le H.focalSubgroup_le, MonoidHom.map_closure, focalSubgroup_def]
```

File: Mathlib/GroupTheory/Focal.lean [hunk 21]
```diff
@@ -0,0 +1,227 @@
...
+/--
+In the quotient `H / H*`, conjugation by any element of `G` preserves equivalence classes.
+If `h ∈ H` and `g⁻¹ * h * g ∈ H`, then `g⁻¹hg ≡ h (mod H*)`.
+-/
+lemma focalSubgroupOf_mk'_conj_eq {h : G} (hh : h ∈ H) (g : G)
+    (hconj : g⁻¹ * h * g ∈ H) :
+    (QuotientGroup.mk' (focalSubgroupOf H)) ⟨g⁻¹ * h * g, hconj⟩ =
+    (QuotientGroup.mk' (focalSubgroupOf H)) ⟨h, hh⟩ := by
+  apply QuotientGroup.eq.mpr
+  change _ ∈ (focalSubgroup H).subgroupOf H; rw [mem_subgroupOf]; apply subset_closure
```
Comment (tb65536) [inline Mathlib/GroupTheory/Focal.lean]:
```suggestion
  rw [focalSubgroupOf, mem_subgroupOf]
  apply subset_closure
```

File: Mathlib/Data/ZMod/QuotientGroup.lean (hunk 16 above)
Comment (Rogerhu12) [reply Mathlib/Data/ZMod/QuotientGroup.lean]: Thanks. I generalize the lemma and golf two theorems in `Transfer.lean`

File: Mathlib/GroupTheory/Focal.lean [hunk 22]
```diff
@@ -0,0 +1,221 @@
...
+/-- Lemma: The focal subgroup is indeed a subgroup of H. -/
+lemma focalSubgroup_le : focalSubgroup H ≤ H := by
+  rw [focalSubgroup_def, closure_le]
+  rintro g ⟨h, -, -, -, -⟩
+  exact h
+
+/-- Lemma: H* is a normal subgroup of H. -/
+instance : Normal (focalSubgroupOf H) := by
+  change Normal ((focalSubgroup H).subgroupOf H)
+  rw [normal_subgroupOf_iff (focalSubgroup_le H)]
```
Comment (tb65536) [inline Mathlib/GroupTheory/Focal.lean]:
```suggestion
  rw [focalSubgroupOf_def, normal_subgroupOf_iff (focalSubgroup_le H)]
```

File: Mathlib/GroupTheory/Focal.lean [hunk 23]
```diff
@@ -0,0 +1,221 @@
...
+
+theorem focalSubgroupOf_def :
+    focalSubgroupOf H = (focalSubgroup H).subgroupOf H := rfl
+
+/-- Lemma: The focal subgroup is indeed a subgroup of H. -/
+lemma focalSubgroup_le : focalSubgroup H ≤ H := by
+  rw [focalSubgroup_def, closure_le]
+  rintro g ⟨h, -, -, -, -⟩
+  exact h
+
```
Comment (tb65536) [inline Mathlib/GroupTheory/Focal.lean:75]: I suggest adding this consequence:
```suggestion

theorem map_focalSubgroupOf : H.focalSubgroupOf.map H.subtype = H.focalSubgroup :=
  map_subgroupOf_eq_of_le H.focalSubgroup_le

```

File: Mathlib/GroupTheory/Focal.lean [hunk 24]
```diff
@@ -0,0 +1,221 @@
...
+  apply QuotientGroup.eq.mpr
+  rw [focalSubgroupOf, mem_subgroupOf]
+  apply subset_closure
+  simp only [Subgroup.coe_mul, Subgroup.coe_inv]
+  exact ⟨H.mul_mem (H.inv_mem hconj) hh, _, H.inv_mem hconj, g, by group⟩
+
+theorem focalSubgroupOf_eq_closure :
+    focalSubgroupOf H = closure { g : H | ∃ x ∈ H, ∃ u : G, g = ⁅x, u⁆ } := by
+  rw [← (map_injective H.subtype_injective).eq_iff, focalSubgroupOf_def,
+    map_subgroupOf_eq_of_le H.focalSubgroup_le, MonoidHom.map_closure, focalSubgroup_def]
```
Comment (tb65536) [inline Mathlib/GroupTheory/Focal.lean]: Then you get a slight golf here:
```suggestion
  rw [← (map_injective H.subtype_injective).eq_iff, map_focalSubgroupOf,
    MonoidHom.map_closure, focalSubgroup_def]
```

File: Mathlib/GroupTheory/Focal.lean [hunk 25]
```diff
@@ -0,0 +1,221 @@
...
+  congr
+  simp
+  grind
+
+lemma commutator_le_focalSubgroupOf : _root_.commutator H ≤ focalSubgroupOf H := by
+  rw [focalSubgroupOf_eq_closure]
+  apply closure_mono
+  rintro - ⟨a, -, b, -, -, rfl⟩
+  exact ⟨a, a.2, b, rfl⟩
+
```
Comment (tb65536) [inline Mathlib/GroupTheory/Focal.lean:124]: I suggest adding the `Subgroup G` version:
```suggestion

lemma commutator_le_focalSubgroup : ⁅H, H⁆ ≤ focalSubgroup H := by
  grw [← map_subtype_commutator, H.commutator_le_focalSubgroupOf, map_focalSubgroupOf]

```

File: Mathlib/GroupTheory/Focal.lean [hunk 26]
```diff
@@ -0,0 +1,221 @@
...
+section TransferLemmas
+
+variable {G : Type*} [Group G] (H : Subgroup G)
+
+/--
+The restriction of the Transfer map to `H` acts like the power map `x ↦ x^n` mod `H*`,
+where `n = [G:H]`.
+-/
+theorem transfer_focal_eq_pow [Finite G] (x : H) :
```
Comment (tb65536) [inline Mathlib/GroupTheory/Focal.lean]: Since there's only one lemma in the section and it's a basic API lemma for `transferFocal`, I would just move it to be right after `transferFocal`.

File: Mathlib/GroupTheory/Focal.lean [hunk 27]
```diff
@@ -0,0 +1,221 @@
...
+    transferFocal H x =
+    (QuotientGroup.mk' (focalSubgroupOf H) x) ^ H.index := by
+  let φ := QuotientGroup.mk' (focalSubgroupOf H)
```
Comment (tb65536) [inline Mathlib/GroupTheory/Focal.lean]: I think using a coercion here is actually the simp normal form.
```suggestion
theorem transfer_focal_eq_pow [H.FiniteIndex] (x : H) :
    transferFocal H x = (x : H ⧸ H.focalSubgroupOf) ^ H.index := by
```

File: Mathlib/GroupTheory/Focal.lean [hunk 28]
```diff
@@ -0,0 +1,221 @@
...
+
+/-- The power map `y ↦ y^n` is surjective on `P/P*` because `gcd(n, p) = 1`. -/
+lemma pow_n_surjective_on_p_quotient :
+    Surjective (fun (y : P.toSubgroup ⧸ focalSubgroupOf P.toSubgroup) =>
+    y ^ (index P.toSubgroup)) := by
+  have hn : p.Coprime (index P.toSubgroup) :=
+    (Nat.Prime.coprime_iff_not_dvd Fact.out).mpr (Sylow.not_dvd_index P)
+  have hQ : IsPGroup p (P.toSubgroup ⧸ focalSubgroupOf P.toSubgroup) :=
+    IsPGroup.to_quotient P.2 (focalSubgroupOf P.toSubgroup)
+  exact fun g => ⟨(hQ.powEquiv hn).symm g, (hQ.powEquiv hn).apply_symm_apply g⟩
```
Comment (tb65536) [inline Mathlib/GroupTheory/Focal.lean]:
```suggestion
lemma pow_n_surjective_on_p_quotient : Surjective fun y : P ⧸ P.focalSubgroupOf ↦ y ^ P.index :=
  ((P.2.to_quotient P.focalSubgroupOf).powEquiv' P.not_dvd_index).surjective
```

File: Mathlib/GroupTheory/Focal.lean [hunk 29]
```diff
@@ -0,0 +1,221 @@
...
+
+/-- The Transfer homomorphism is surjective from `G` to `P/P*`. -/
+lemma transfer_restrict_surjective :
+    Surjective (transferFocal P.toSubgroup) := by
+  intro z
+  obtain ⟨y, hy⟩ := pow_n_surjective_on_p_quotient P z
+  obtain ⟨x, hx⟩ := QuotientGroup.mk'_surjective _ y
+  exact ⟨x, by rwa [transfer_focal_eq_pow, hx]⟩
```
Comment (tb65536) [inline Mathlib/GroupTheory/Focal.lean]:
```suggestion
  intro x
  obtain ⟨x, rfl⟩ := pow_n_surjective_on_p_quotient P x
  obtain ⟨x, rfl⟩ := QuotientGroup.mk'_surjective _ x
  exact ⟨x, P.transfer_focal_eq_pow x⟩
```

File: Mathlib/GroupTheory/Focal.lean [hunk 30]
```diff
@@ -0,0 +1,221 @@
...
+
+/-- Isomorphism theorem: `G / ker(V) ≅ P / P*`. -/
+def quotientKerIsoQuotientFocal :
+    (G ⧸ (transferFocal P.toSubgroup).ker) ≃*
+    (P.toSubgroup ⧸ focalSubgroupOf P.toSubgroup) := by
+  letI : P.toSubgroup.FiniteIndex := finiteIndex_of_finite_quotient
+  exact QuotientGroup.quotientKerEquivOfSurjective
+    (transferFocal P.toSubgroup) (transfer_restrict_surjective P)
```
Comment (tb65536) [inline Mathlib/GroupTheory/Focal.lean]:
```suggestion
def quotientKerIsoQuotientFocal : G ⧸ P.transferFocal.ker ≃* P ⧸ P.focalSubgroupOf :=
  QuotientGroup.quotientKerEquivOfSurjective P.transferFocal (transfer_restrict_surjective P)
```

File: Mathlib/GroupTheory/Focal.lean [hunk 31]
```diff
@@ -0,0 +1,221 @@
...
+    rw [hQ.powEquiv_apply, hx_ker]
+    simp
+  · intro x hx
+    have hxP := focalSubgroup_le P.toSubgroup hx
+    refine ⟨hxP, ?_⟩
+    simp only [mem_toSubmonoid, SetLike.mem_coe, MonoidHom.mem_ker]
+    rw [transfer_focal_eq_pow P ⟨x, hxP⟩]
+    convert one_pow _
+    rw [← MonoidHom.mem_ker, ← hker]
+    exact mem_subgroupOf.mpr hx
```
Comment (tb65536) [inline Mathlib/GroupTheory/Focal.lean]:
```suggestion
lemma ker_restrict_transferFocal_eq_focalSubgroupOf :
    (P.transferFocal.restrict P).ker = P.focalSubgroupOf := by
  ext g
  have hQ : IsPGroup p (P ⧸ P.focalSubgroupOf) := P.2.to_quotient P.focalSubgroupOf
  rw [MonoidHom.mem_ker, MonoidHom.restrict_apply, transfer_focal_eq_pow]
  simpa using (hQ.powEquiv' P.not_dvd_index).apply_eq_iff_eq (x := g) (y := 1)

lemma inf_ker_transferFocal_eq_focalSubgroup : P.transferFocal.ker ⊓ P = P.focalSubgroup := by
  rw [← subgroupOf_map_subtype, ← MonoidHom.ker_restrict, ← map_focalSubgroupOf]
  exact congr_arg _ (ker_restrict_transferFocal_eq_focalSubgroupOf P)
```

File: Mathlib/GroupTheory/Focal.lean [hunk 32]
```diff
@@ -0,0 +1,221 @@
...
+where `P*` is the focal subgroup of `P`.
+-/
+theorem inf_commutator_eq_focalSubgroup :
+    P.toSubgroup ⊓ _root_.commutator G = focalSubgroup P := by
+  have h_le :
+      P.toSubgroup ⊓ _root_.commutator G ≤ P.toSubgroup ⊓ (transferFocal P.toSubgroup).ker :=
+    inf_le_inf_left _ (Abelianization.commutator_subset_ker (f := transferFocal P.toSubgroup))
+  have h_eq := inf_ker_transferFocal_eq_focalSubgroup P
+  have h_ge := le_inf (focalSubgroup_le P.toSubgroup) (focalSubgroup_le_commutator P.toSubgroup)
+  exact le_antisymm (h_le.trans_eq h_eq) h_ge
```
Comment (tb65536) [inline Mathlib/GroupTheory/Focal.lean]:
```suggestion
theorem inf_commutator_eq_focalSubgroup :  _root_.commutator G ⊓ P = P.focalSubgroup :=
  le_antisymm ((inf_le_inf_right _ (Abelianization.commutator_subset_ker P.transferFocal)).trans
    (inf_ker_transferFocal_eq_focalSubgroup P).le)
      (le_inf P.focalSubgroup_le_commutator P.focalSubgroup_le)
```

**Review by tb65536 — COMMENTED** [review]
Getting close! Just some golfs now, and then we'll need to clean up the names next time around.

File: Mathlib/GroupTheory/Focal.lean [hunk 33]
```diff
@@ -0,0 +1,190 @@
...
+  apply focalSubgroupOf_mk'_conj_eq H
+
+end Definitions
+
+section FocalSubgroupTheorem
+
+variable {G : Type*} [Group G] [Finite G] {p : ℕ} [Fact (Nat.Prime p)] (P : Sylow p G)
+
+/-- The power map `y ↦ y^n` is surjective on `P/P*` because `gcd(n, p) = 1`. -/
+lemma pow_n_surjective_on_p_quotient : Surjective fun y : P ⧸ P.focalSubgroupOf ↦ y ^ P.index :=
```
Comment (tb65536) [inline Mathlib/GroupTheory/Focal.lean]:
```suggestion
lemma focalSubgroupOf.pow_index_surjective : Surjective fun y : P ⧸ P.focalSubgroupOf ↦ y ^ P.index :=
```

File: Mathlib/GroupTheory/Focal.lean [hunk 34]
```diff
@@ -0,0 +1,190 @@
...
+lemma focalSubgroup_le_commutator : focalSubgroup H ≤ _root_.commutator G := by
+  rw [focalSubgroup_def, closure_le]
+  rintro g ⟨_, x, _, u, rfl⟩
+  exact commutator_mem_commutator (mem_top x) (mem_top u)
+
+/--
+In the quotient `H / H*`, conjugation by any element of `G` preserves equivalence classes.
+If `h ∈ H` and `g⁻¹ * h * g ∈ H`, then `g⁻¹hg ≡ h (mod H*)`.
+-/
+lemma focalSubgroupOf_mk'_conj_eq {h : G} (hh : h ∈ H) (g : G)
```
Comment (tb65536) [inline Mathlib/GroupTheory/Focal.lean]:
```suggestion
lemma focalSubgroupOf.mk'_conj_eq {h : G} (hh : h ∈ H) (g : G)
```

File: Mathlib/GroupTheory/Focal.lean [hunk 35]
```diff
@@ -0,0 +1,190 @@
...
+
+variable {G : Type*} [Group G] [Finite G] {p : ℕ} [Fact (Nat.Prime p)] (P : Sylow p G)
+
+/-- The power map `y ↦ y^n` is surjective on `P/P*` because `gcd(n, p) = 1`. -/
+lemma pow_n_surjective_on_p_quotient : Surjective fun y : P ⧸ P.focalSubgroupOf ↦ y ^ P.index :=
+  ((P.2.to_quotient P.focalSubgroupOf).powEquiv' P.not_dvd_index).surjective
+
+/-- The Transfer homomorphism is surjective from `G` to `P/P*`. -/
+lemma transfer_restrict_surjective :
+    Surjective (transferFocal P.toSubgroup) := by
```
Comment (tb65536) [inline Mathlib/GroupTheory/Focal.lean]:
```suggestion
lemma transferFocal_surjective : Surjective (transferFocal P.toSubgroup) := by
```

File: Mathlib/GroupTheory/Focal.lean [hunk 36]
```diff
@@ -0,0 +1,190 @@
...
+  intro x
+  obtain ⟨x, rfl⟩ := pow_n_surjective_on_p_quotient P x
+  obtain ⟨x, rfl⟩ := QuotientGroup.mk'_surjective _ x
+  exact ⟨x, P.transfer_focal_eq_pow x⟩
+
+/-- Isomorphism theorem: `G / ker(V) ≅ P / P*`. -/
+def quotientKerIsoQuotientFocal : G ⧸ P.transferFocal.ker ≃* P ⧸ P.focalSubgroupOf :=
```
Comment (tb65536) [inline Mathlib/GroupTheory/Focal.lean]:
```suggestion
def transferFocal.quotientKerMulEquivQuotientFocalSubroupOf : G ⧸ P.transferFocal.ker ≃* P ⧸ P.focalSubgroupOf :=
```

File: Mathlib/GroupTheory/Focal.lean [hunk 37]
```diff
@@ -0,0 +1,190 @@
...
+  QuotientGroup.quotientKerEquivOfSurjective P.transferFocal (transfer_restrict_surjective P)
+
+lemma ker_restrict_transferFocal_eq_focalSubgroupOf :
+    (P.transferFocal.restrict P).ker = P.focalSubgroupOf := by
+  ext g
+  have hQ : IsPGroup p (P ⧸ P.focalSubgroupOf) := P.2.to_quotient P.focalSubgroupOf
+  rw [MonoidHom.mem_ker, MonoidHom.restrict_apply, transfer_focal_eq_pow]
+  simpa using (hQ.powEquiv' P.not_dvd_index).apply_eq_iff_eq (x := g) (y := 1)
+
+lemma inf_ker_transferFocal_eq_focalSubgroup : P.transferFocal.ker ⊓ P = P.focalSubgroup := by
```
Comment (tb65536) [inline Mathlib/GroupTheory/Focal.lean]:
```suggestion
lemma ker_transferFocal_inf_eq_focalSubgroup : P.transferFocal.ker ⊓ P = P.focalSubgroup := by
```

File: Mathlib/GroupTheory/Focal.lean [hunk 38]
```diff
@@ -0,0 +1,190 @@
...
+  rw [← subgroupOf_map_subtype, ← MonoidHom.ker_restrict, ← map_focalSubgroupOf]
+  exact congr_arg _ (ker_restrict_transferFocal_eq_focalSubgroupOf P)
+
+/--
+**The Focal Subgroup Theorem**
+
+For a Sylow p-subgroup P of a finite group G, `P ∩ G' = P*`,
+where `P*` is the focal subgroup of `P`.
+-/
+theorem inf_commutator_eq_focalSubgroup :  _root_.commutator G ⊓ P = P.focalSubgroup :=
```
Comment (tb65536) [inline Mathlib/GroupTheory/Focal.lean]:
```suggestion
theorem commutator_inf_eq_focalSubgroup :  _root_.commutator G ⊓ P = P.focalSubgroup :=
```

File: Mathlib/GroupTheory/Focal.lean [hunk 39]
```diff
@@ -0,0 +1,191 @@
...
+  It states that for a Sylow p-subgroup `P`, `P ∩ G' = P*`, where `P*` is the focal subgroup.
+
+## References
+
+* [D. Gorenstein, *Finite Groups*][gorenstein1968]
+-/
+
+@[expose] public section
+
+noncomputable section
```
Comment (tb65536) [inline Mathlib/GroupTheory/Focal.lean]: Can you instead mark specific defs as irreducible as needed?

File: Mathlib/GroupTheory/Focal.lean [hunk 40]
```diff
@@ -0,0 +1,191 @@
...
+
+/-!
+# Focal Subgroup Theorem
+
+This file defines the focal subgroup and proves the Focal Subgroup Theorem.
+
+## Main Theorem
+
+* `inf_commutator_eq_focalSubgroup`: The Focal Subgroup Theorem.
+  It states that for a Sylow p-subgroup `P`, `P ∩ G' = P*`, where `P*` is the focal subgroup.
```
Comment (tb65536) [inline Mathlib/GroupTheory/Focal.lean]: Can you expand the docstring to have a main definitions section including `focalSubgroup`, focalSubgroupOf`, and `transferFocal`?

File: Mathlib/GroupTheory/Focal.lean [hunk 41]
```diff
@@ -0,0 +1,191 @@
...
+Defined using the abelian quotient H/H*.
+-/
+def transferFocal [H.FiniteIndex] : G →* H ⧸ focalSubgroupOf H :=
+  MonoidHom.transfer (QuotientGroup.mk' (focalSubgroupOf H))
+
+/--
+The restriction of the Transfer map to `H` acts like the power map `x ↦ x^n` mod `H*`,
+where `n = [G:H]`.
+-/
+theorem transfer_focal_eq_pow [H.FiniteIndex] (x : H) :
```
Comment (tb65536) [inline Mathlib/GroupTheory/Focal.lean]:
```suggestion
theorem transferFocal_eq_pow [H.FiniteIndex] (x : H) :
```

**Review by tb65536 — COMMENTED** [review]
Remember to remove the awaiting-author tag once you have responded to everything.

File: Mathlib/GroupTheory/Focal.lean [hunk 42]
```diff
@@ -0,0 +1,201 @@
...
+- `focalSubgroup H` : The focal subgroup `H*` of a subgroup `H`, generated by elements
+  of the form `⁅x, u⁆` where `x ∈ H` and `⁅x, u⁆ ∈ H`.
+- `focalSubgroupOf H` : The focal subgroup of `H` considered as a subgroup of `H`,
+  i.e., `(focalSubgroup H).subgroupOf H`.
+- `transferFocal H` : The transfer homomorphism `V : G →* H ⧸ H*`, defined using the
+  abelian quotient `H / H*`.
+
+## Main Theorem
+
+- `transfer_focal_eq_pow`:
```
Comment (tb65536) [inline Mathlib/GroupTheory/Focal.lean]: Can you fix this name?

File: Mathlib/GroupTheory/Focal.lean [hunk 43]
```diff
@@ -0,0 +1,201 @@
...
+lemma commutator_le_focalSubgroup : ⁅H, H⁆ ≤ focalSubgroup H := by
+  grw [← map_subtype_commutator, H.commutator_le_focalSubgroupOf, map_focalSubgroupOf]
+
+instance : IsMulCommutative (H ⧸ focalSubgroupOf H) :=
+  ⟨⟨(Normal.quotient_commutative_iff_commutator_le.mpr H.commutator_le_focalSubgroupOf).comm⟩⟩
+
+/--
+The Transfer homomorphism `V : G → H/H*`.
+Defined using the abelian quotient H/H*.
+-/
```
Comment (tb65536) [inline Mathlib/GroupTheory/Focal.lean]:
```suggestion
/-- The transfer homomorphism `V : G → H/H*` from `G` the abelian quotient `H/H*`. -/
```

File: Mathlib/GroupTheory/Focal.lean [hunk 44]
```diff
@@ -0,0 +1,201 @@
...
+noncomputable def transferFocal [H.FiniteIndex] : G →* H ⧸ focalSubgroupOf H :=
+  MonoidHom.transfer (QuotientGroup.mk' (focalSubgroupOf H))
+
+/--
+The restriction of the Transfer map to `H` acts like the power map `x ↦ x^n` mod `H*`,
```
Comment (tb65536) [inline Mathlib/GroupTheory/Focal.lean]:
```suggestion
The restriction of the transfer map to `H` acts like the power map `x ↦ x^n` mod `H*`,
```

File: Mathlib/GroupTheory/Focal.lean [hunk 45]
```diff
@@ -0,0 +1,201 @@
...
+    MonoidHom.transfer_eq_prod_quotient_orbitRel_zpowers_quot]
+  apply Finset.prod_congr rfl
+  intros
+  apply focalSubgroupOf.mk'_conj_eq H
+
+end Definitions
+
+section FocalSubgroupTheorem
+
+variable {G : Type*} [Group G] [Finite G] {p : ℕ} [Fact (Nat.Prime p)] (P : Sylow p G)
```
Comment (tb65536) [inline Mathlib/GroupTheory/Focal.lean]: You should double-check to see if any of this generalizes to `[P.FiniteIndex]`.

**Review by tb65536 — APPROVED** [review]

File: Mathlib/GroupTheory/Focal.lean (hunk 45 above)
Comment (Rogerhu12) [reply Mathlib/GroupTheory/Focal.lean]: I generalize these and `Sylow.not_dvd_index`  to `[P.FiniteIndex]`.

File: Mathlib/GroupTheory/Sylow.lean [hunk 46]
```diff
@@ -429,9 +436,10 @@ theorem not_dvd_index' [hp : Fact p.Prime] [Finite (Sylow p G)] (P : Sylow p G)
   exact hp.1.not_dvd_mul hP (not_dvd_card_sylow p G)
 
 /-- A Sylow p-subgroup has index indivisible by `p`. -/
-theorem not_dvd_index [Fact p.Prime] [Finite (Sylow p G)] (P : Sylow p G) [P.FiniteIndex] :
-    ¬ p ∣ P.index :=
-  P.not_dvd_index' Nat.card_pos.ne'
+theorem not_dvd_index [Fact p.Prime] (P : Sylow p G) [P.FiniteIndex] :
+    ¬ p ∣ P.index := by
+  haveI := P.finite_of_finiteIndex
```
Comment (tb65536) [inline Mathlib/GroupTheory/Sylow.lean]:
```suggestion
  have := P.finite_of_finiteIndex
```

Comment (tb65536) [reply Mathlib/GroupTheory/Sylow.lean]: (`haveI` is a legacy from the lean 3 days)

File: Mathlib/GroupTheory/Sylow.lean [hunk 47]
```diff
@@ -211,6 +211,13 @@ theorem finite_of_injective {H : Type*} [Group H] {f : H →* G}
 instance (H : Subgroup G) [Finite (Sylow p G)] : Finite (Sylow p H) :=
   finite_of_injective H.subtype_injective
 
+/-- If a Sylow `p`-subgroup has finite index, then the number of Sylow `p`-subgroups is finite. -/
+theorem finite_of_finiteIndex (P : Sylow p G) [P.FiniteIndex] : Finite (Sylow p G) := by
+  let K := P.toSubgroup.normalCore
+  apply finite_of_ker_is_pGroup (f := QuotientGroup.mk' K)
+  rw [QuotientGroup.ker_mk']
+  exact P.isPGroup'.to_le P.toSubgroup.normalCore_le
```
Comment (tb65536) [inline Mathlib/GroupTheory/Sylow.lean]:
```suggestion
  apply finite_of_ker_is_pGroup (f := QuotientGroup.mk' P.normalCore)
  rw [QuotientGroup.ker_mk']
  exact P.isPGroup'.to_le P.normalCore_le
```

File: Mathlib/GroupTheory/Focal.lean [hunk 48]
```diff
@@ -0,0 +1,198 @@
...
+
+variable {G : Type*} [Group G] {p : ℕ} [Fact p.Prime] (P : Sylow p G) [P.FiniteIndex]
+
+/-- The power map `y ↦ y^n` is surjective on `P/P*` because `gcd(n, p) = 1`. -/
+lemma focalSubgroupOf.pow_index_surjective :
+    Surjective fun y : P ⧸ P.focalSubgroupOf ↦ y ^ P.index :=
+  ((P.2.to_quotient P.focalSubgroupOf).powEquiv' (not_dvd_index P)).surjective
+
+/-- The Transfer homomorphism is surjective from `G` to `P/P*`. -/
+lemma transferFocal_surjective : Surjective (transferFocal P.toSubgroup) := by
```
Comment (tb65536) [inline Mathlib/GroupTheory/Focal.lean]:
```suggestion
lemma transferFocal_surjective : Surjective P.transferFocal := by
```

File: Mathlib/GroupTheory/Focal.lean [hunk 49]
```diff
@@ -0,0 +1,198 @@
...
+end Definitions
+
+section FocalSubgroupTheorem
+
+variable {G : Type*} [Group G] {p : ℕ} [Fact p.Prime] (P : Sylow p G) [P.FiniteIndex]
+
+/-- The power map `y ↦ y^n` is surjective on `P/P*` because `gcd(n, p) = 1`. -/
+lemma focalSubgroupOf.pow_index_surjective :
+    Surjective fun y : P ⧸ P.focalSubgroupOf ↦ y ^ P.index :=
+  ((P.2.to_quotient P.focalSubgroupOf).powEquiv' (not_dvd_index P)).surjective
```
Comment (tb65536) [inline Mathlib/GroupTheory/Focal.lean]:
```suggestion
  ((P.2.to_quotient P.focalSubgroupOf).powEquiv' P.not_dvd_index).surjective
```

File: Mathlib/GroupTheory/Focal.lean [hunk 50]
```diff
@@ -0,0 +1,198 @@
...
+noncomputable def transferFocal.quotientKerMulEquivQuotientFocalSubroupOf :
+    G ⧸ P.transferFocal.ker ≃* P ⧸ P.focalSubgroupOf :=
+  QuotientGroup.quotientKerEquivOfSurjective P.transferFocal (transferFocal_surjective P)
+
+lemma ker_restrict_transferFocal_eq_focalSubgroupOf :
+    (P.transferFocal.restrict P).ker = P.focalSubgroupOf := by
+  ext g
+  have hQ : IsPGroup p (P ⧸ P.focalSubgroupOf) := P.2.to_quotient P.focalSubgroupOf
+  rw [MonoidHom.mem_ker, MonoidHom.restrict_apply, transferFocal_eq_pow]
+  simpa using (hQ.powEquiv' (not_dvd_index P)).apply_eq_iff_eq (x := g) (y := 1)
```
Comment (tb65536) [inline Mathlib/GroupTheory/Focal.lean]:
```suggestion
  simpa using (hQ.powEquiv' P.not_dvd_index).apply_eq_iff_eq (x := g) (y := 1)
```

File: Mathlib/GroupTheory/Sylow.lean (hunk 46 above)
Comment (Rogerhu12) [reply Mathlib/GroupTheory/Sylow.lean]: Thanks! Since haveI is all over Mathlib, are there any cases where it’s still necessary, or should I always prefer have now?

Comment (tb65536) [reply Mathlib/GroupTheory/Sylow.lean]: For proofs, always prefer `have` and `let`. See this: https://leanprover.zulipchat.com/#narrow/channel/113489-new-members/topic/.60letI.60.20vs.2E.20.60haveI.60/near/505483484

**Review by tb65536 — APPROVED** [review]
Thanks for all your work in getting this over the line!

maintainer merge

File: Mathlib/GroupTheory/Focal.lean [hunk 51]
```diff
@@ -0,0 +1,198 @@
...
+theorem focalSubgroupOf_def :
+    focalSubgroupOf H = (focalSubgroup H).subgroupOf H := rfl
+
+/-- Lemma: The focal subgroup is indeed a subgroup of H. -/
+lemma focalSubgroup_le : focalSubgroup H ≤ H := by
+  rw [focalSubgroup_def, closure_le]
+  rintro g ⟨h, -, -, -, -⟩
+  exact h
+
+theorem map_focalSubgroupOf : H.focalSubgroupOf.map H.subtype = H.focalSubgroup :=
```
Comment (ocfnash) [inline Mathlib/GroupTheory/Focal.lean]:
```suggestion
@[simp] theorem map_focalSubgroupOf : H.focalSubgroupOf.map H.subtype = H.focalSubgroup :=
```

File: Mathlib/Data/ZMod/QuotientGroup.lean [hunk 52]
```diff
@@ -196,4 +196,16 @@ lemma quotientEquivSigmaZMod_apply (q : orbitRel.Quotient (zpowers g) (G ⧸ H))
...
     zpow_smul_mod_minimalPeriod]
 
+/-- The sum of minimal periods over all orbits equals the index `[G:H]`. -/
+lemma index_eq_sum_minimalPeriod (g : G) [Finite (G ⧸ H)]
+    [Fintype (Quotient (MulAction.orbitRel (zpowers g) (G ⧸ H)))] :
+    H.index = ∑ q : Quotient (MulAction.orbitRel (zpowers g) (G ⧸ H)),
+      Function.minimalPeriod (g • ·) q.out := by
+  haveI : Fintype (G ⧸ H) := Fintype.ofFinite _
+  haveI : ∀ q : Quotient (MulAction.orbitRel (zpowers g) (G ⧸ H)),
+      Fintype (MulAction.orbit (zpowers g) q.out) := fun q => Fintype.ofFinite _
```
Comment (ocfnash) [inline Mathlib/Data/ZMod/QuotientGroup.lean]: The `I` in `haveI` is for "inline" and these do not need to be inline. Also an optional minor style tweak:
```suggestion
  have : Fintype (G ⧸ H) := Fintype.ofFinite _
  have (q : Quotient (MulAction.orbitRel (zpowers g) (G ⧸ H))) :
      Fintype (MulAction.orbit (zpowers g) q.out) := Fintype.ofFinite _
```

File: Mathlib/GroupTheory/Focal.lean [hunk 53]
```diff
@@ -0,0 +1,198 @@
...
+/--
+**The Focal Subgroup Theorem**
+
+For a Sylow p-subgroup P of a finite group G, `P ∩ G' = P*`,
+where `P*` is the focal subgroup of `P`.
+-/
+theorem commutator_inf_eq_focalSubgroup :  _root_.commutator G ⊓ P = P.focalSubgroup :=
+  le_antisymm ((inf_le_inf_right _ (Abelianization.commutator_subset_ker P.transferFocal)).trans
+    (ker_transferFocal_inf_eq_focalSubgroup P).le)
+      (le_inf P.focalSubgroup_le_commutator P.focalSubgroup_le)
```
Comment (ocfnash) [inline Mathlib/GroupTheory/Focal.lean]: I think this is slightly over-golfed and will be easier to maintain (as well as easier for a human to understand) as follows:
```suggestion
theorem commutator_inf_eq_focalSubgroup :  _root_.commutator G ⊓ P = P.focalSubgroup := by
  apply le_antisymm
  · apply le_trans ?_ (ker_transferFocal_inf_eq_focalSubgroup P).le
    exact inf_le_inf_right _ (Abelianization.commutator_subset_ker P.transferFocal)
  · exact le_inf P.focalSubgroup_le_commutator P.focalSubgroup_le
```

**Review by ocfnash — APPROVED** [review]
Thanks!

bors d+
